US06395733B1
(3-Ethynyl-phenyl)-(5-methyl-7H-pyrrolo[2,3-d]pyrimidin-4-yl)-amine Hydrochloride
To 4-chloro5-methyl-7H-pyrrolopyrimidine (0.17 g, 1.0 mmol) in dry methanol (3 ml) was added m-aminophenyl acetylene (0.14 g, 1.2 mmol). The suspension was heated in a sealed pressure tube at 125° C. for 18 hours. The reaction mixture was cooled to ambient temperature, and concentrated in vacuo. The resulting residue was purified by flash chromatography on silica gel (15 g,40 mm mesh) using 5% methanol/methylene chloride to afford the title compound as a yellow solid (0.11 g, 43%). TS-MS: 249 (MH+); anal. RP18-HPLC RT: min.

reactant | 4-chloro5-methyl-7H-pyrrolopyrimidine | 1.0 mmol, 0.17 g | ClC1=NC=NC2=C1N(CC2)C | C7H8ClN3
reactant | m-aminophenyl acetylene | 1.2 mmol, 0.14 g | NC=1C=C(C=CC1)C#C | C8H7N
solvent | methanol | 3 ml | CO | CH4O
product | (3-Ethynyl-phenyl)-(5-methyl-7H-pyrrolo[2,3-d]pyrimidin-4-yl)-amine Hydrochloride | 0.11 g, 43% | Cl.C(#C)C=1C=C(C=CC1)NC=1C2=C(N=CN1)NC=C2C | InChI=1S/C15H12N4.ClH/c1-3-11-5-4-6-12(7-11)19-15-13-10(2)8-16-14(13)17-9-18-15;/h1,4-9H,2H3,(H2,16,17,18,19);1H
